US08609731B2
6-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]isochromen-1-one
To a solution of 6-hydroxyisochromen-1-one (2 g) in DMF (50 ml) were added methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester (2.7 g) and cesium carbonate (12 g), and the mixture was stirred at 80° C. for 7 hours. After water had been added, the mixture was extracted with dichloromethane. The organic phases were dried over magnesium sulfate and concentrated. The product was thus obtained with the molecular weight of 246.27 (C14H14O4); MS (ESI): 247 (M+H+).

reactant | 6-hydroxyisochromen-1-one | 2 g | OC=1C=C2C=COC(C2=CC1)=O | C9H6O3
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | 2.7 g | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
reactant | cesium carbonate | 12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]isochromen-1-one | O1[C@@H](CCC1)COC=1C=C2C=COC(C2=CC1)=O | C14H14O4
